US06150373
A solution of 520 mg (1.6 mmol) of 4-chloro-5-(2,6-dichloroanilinomethyl)-2-methylthiopyrimidine, 420 mg (1.6 mmol) of (2-(3-aminophenyl)-1,1-dimethyl-ethyl)-carbamic acid tert-butyl ester and 250 mg (1.7 mmol) of N,N-diethylaniline in 5 ml of dichloromethane was heated at 80° C. until the solvent had evaporated and then to 120° C. for 30 minutes and then cooled. The product was purified by flash chromatography on silica gel eluting with diethyl ether/isohexane in a ratio 1:1 to give 350 mg (39%) of (2-(3-[5-[(2,6-dichlorophenylamino)-methyl]-2-methylthiopyrimidin-4-yl-amino]-phenyl)-1,1-dimethyl-ethyl)-carbamic acid tert-butyl ester as a white solid. [Mass spectrum (ESI) MH+ =562].

reactant | 4-chloro-5-(2,6-dichloroanilinomethyl)-2-methylthiopyrimidine | 1.6 mmol, 520 mg | ClC1=NC(=NC=C1CNC1=C(C=CC=C1Cl)Cl)SC | C12H10Cl3N3S
reactant | (2-(3-aminophenyl)-1,1-dimethyl-ethyl)-carbamic acid tert-butyl ester | 1.6 mmol, 420 mg | C(C)(C)(C)OC(NC(CC1=CC(=CC=C1)N)(C)C)=O | C15H24N2O2
reactant | N,N-diethylaniline | 1.7 mmol, 250 mg | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (2-(3-[5-[(2,6-dichlorophenylamino)-methyl]-2-methylthiopyrimidin-4-yl-amino]-phenyl)-1,1-dimethyl-ethyl)-carbamic acid tert-butyl ester | 350 mg, 39% | C(C)(C)(C)OC(NC(CC1=CC(=CC=C1)NC1=NC(=NC=C1CNC1=C(C=CC=C1Cl)Cl)SC)(C)C)=O | C27H33Cl2N5O2S
